Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Elevated blood pressure
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is ___ yo G2P1 at 33+1 WGA who was seen by Dr. 
___ in the office today c/o h/a yesterday (gone today), 
but labile BP's and occational spots in her vision today.  BP in 
the office today 142/88.  Pt also c/o severe sciatica pain since 
last ___.  Pt sent from the office for 24 hour observation, 
24 hour urine collection and ___ consult. No contractions, 
bleeding, no leakage of fluid. Active FM x2

 
Past Medical History:
PNC: EDC ___
A+, Ab neg, Rubella pos, HBsAg neg, 
IUI Di-Di twins

OBHx: 1 LTCS 10# 6 oz male, Term
Gyn Hx: leiomyoma
PMHx: Denies
PSHx: LTCS x 1

 
Social History:
Presents with wife, ___. No T/E/D. 
 
Physical Exam:
on admission:
140/80, 133/98, 119/75
Well, NAD
CV: NSR with ___ SEM, no g/r
Chest: CTA B
Abd: soft, non-tender throughout fundus. No fundal tenderness. 
No RLQ or LLQ discomfort.
Well healed Phannenstiel incision
 
Pertinent Results:
___ 03:17PM BLOOD WBC-9.7 RBC-3.92* Hgb-12.2 Hct-33.6* 
MCV-86 MCH-31.0 MCHC-36.2* RDW-12.6 Plt ___
___ 03:17PM BLOOD Creat-0.5
___ 03:17PM BLOOD ALT-13
___ 03:17PM BLOOD UricAcd-3.8
Other Urine Chemistry:
Creat:40 
TotProt:7 
Prot/Cr:0.2
 
Brief Hospital Course:
The patient is a ___ year old Gravida 2 Para 1 with IUI di/di 
twins at 33w1d, admitted to the ___ service for 
pre-eclampsia evaluation secondary to labile blood pressures, 
intermittent headache and blurry vision.  The patient had blood 
pressure in the office ranging from 110-140/70-90s.  Her 
headache resolved with tylenol and her blurry vision also 
spontaneous resolved.  All of her labs were normal including a 
negative 24hour urine collection.  Her blood pressures in house 
were all less than 140/90.  Given her negative labs, lack of 
persistent pre-eclampisa symptoms, and normal blood pressures, 
the patient was discharged to home on hospital day #2 in good 
condition.  

 
Medications on Admission:
PNV, folic acid, fish oil, valtrex started yesterday for
oral lesion (denies vaginal lesions)

 
Discharge Medications:
same
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Elevated blood pressure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call for headache, vision changes, epigastric pain, 
vaginal bleeding, loss of fluid, decreased fetal movement, or 
any other concerns.  
 
Followup Instructions:
___